US07781417B2
a) Preparation of bis(2-tert-butoxycarbonylaminoethyl)amine
A solution of diethylenetriamine (0.42 g; 4.1 mmol) in tetrahydrofuran (THF; 5 ml) is stirred at 0° C. under nitrogen for 20 minutes. A solution of 2-(tert-butoxycarbonyloximino)-2-phenylacetonitrile (Boc-ON; 2.04 g; 8.2 mmol) in THF (5 ml) is then added dropwise and the reaction mixture is stirred at 0° C. for 1 hour. The solvent is eliminated at reduced pressure and the resulting residue is purified by silica gel column chromatography with methanol-ammonium hydroxide 100:3. 1.2 g (yield 96%) of an oil having the following characteristics is thus obtained:

reactant | diethylenetriamine | 4.1 mmol, 0.42 g | NCCNCCN | C4H13N3
reactant | 2-(tert-butoxycarbonyloximino)-2-phenylacetonitrile | 8.2 mmol, 2.04 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
product | bis(2-tert-butoxycarbonylaminoethyl)amine | 1.2 g, yield 96% | C(C)(C)(C)OC(=O)NCCNCCNC(=O)OC(C)(C)C | C14H29N3O4
